US04447260
To a solution of 3-chloro-4-difluoromethoxyaniline (1.95 g) in methylene chloride (50 ml), triethylamine (1.1 g) was added, and a solution of 1-methylcyclopropanecarbonyl chloride (1.2 g) in methylene chloride was dropwise added while cooling with ice-water. The reaction mixture was stirred at room temperature for 1 hour, admixed with water and extracted with ether. The extract was washed with 1 N hydrochloric acid, sodium hydrogen carbonate solution and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated to give crude crystals (2.6 g). Recrystallization from ethanol gave N-(3-chloro-4-difluoromethoxyphenyl)-1-methylcyclopropanecarboxamide (2.2 g). M.P., 59°-60° C.

reactant | 3-chloro-4-difluoromethoxyaniline | 1.95 g | ClC=1C=C(N)C=CC1OC(F)F | C7H6ClF2NO
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | 1-methylcyclopropanecarbonyl chloride | 1.2 g | CC1(CC1)C(=O)Cl | C5H7ClO
reactant | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(3-chloro-4-difluoromethoxyphenyl)-1-methylcyclopropanecarboxamide | 2.2 g | ClC=1C=C(C=CC1OC(F)F)NC(=O)C1(CC1)C | C12H12ClF2NO2
